US05616586
9-bromo-5-(m-ethoxycarbonylphenylcarbamoyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 5 was carried out with 9-bromo-5-carboxy-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (300 mg, 0.92 mmol) and m-ethoxycarbonylaniline (200 mg, 1.2 mmol) to give 410 mg of the title compound (94%): mp 262°~265° C.; 1H NMR (270 MHz, DMSO-d6) δ12.2 (br, 1H), 10.60 (s, 1H), 8.23 (bs, 1H), 7.81 (d, 1H, J=8.0 Hz), 7.67 (d, 1H, J=8.0 Hz), 7.47 (t, 2H, J=8.0 Hz), 7.22 (bs, 1H), 7.19 (bs, 1H), 5.29~5.34 (m, 1H), 4.30 (q, 2H, J=7.1 Hz), 2.85 (dm, 1H, J=16.8 Hz), 2.50~2.82 (m, 2H), 2.03~2.20 (m, 1H), 1.30 (t, 3H, J=7.1 Hz).

reactant | 9-bromo-5-carboxy-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.92 mmol, 300 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)C(=O)O | C12H9BrN2O4
reactant | m-ethoxycarbonylaniline | 1.2 mmol, 200 mg | C(C)OC(=O)C=1C=C(N)C=CC1 | C9H11NO2
product | 9-bromo-5-(m-ethoxycarbonylphenylcarbamoyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 410 mg, 94% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)C(NC2=CC(=CC=C2)C(=O)OCC)=O | C21H18BrN3O5
